US04873244
Ethyl 5-et hyl-4,5-dihydro-4-oxo-imidazo(1,5-a)pyrido(2,3-e)-pyrazine-3-carboxylate was prepared from 4-ethyl-1,2,3,4-tetrahydro-2,3-dioxo-pyrido(2,3-e)pyrazine and ethyl isocyanoacetate. M.p. 215.5°-216.8° C.

reactant | 4-ethyl-1,2,3,4-tetrahydro-2,3-dioxo-pyrido(2,3-e)pyrazine | C(C)N1C(C(NC2=C1N=CC=C2)=O)=O | C9H9N3O2
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | Ethyl 5-et hyl-4,5-dihydro-4-oxo-imidazo(1,5-a)pyrido(2,3-e)-pyrazine-3-carboxylate | C(C)N1C(C=2N(C3=C1N=CC=C3)C=NC2C(=O)OCC)=O | C14H14N4O3
